US05034539
A mixture of 2 g (8.1 mmol) 2-amino-1-chloro-3-(1H-imidazol-4-yl)butane dihydrochloride, 1.3 g (16.2 mmol) sodium acetate and 100 ml 10% acetic acid, are hydrogenated over 0.5 g 10% palladium on activated carbon for 10 days at 10 bar and ambient temperature. The catalyst is removed by filtration and the filtrate brought to pH 1 by addition of concentrated hydrochloric acid. After evaporation the oily residue is dissolved in dry ethanol and inorganic material is removed by filtration. By addition of petrolether the title compound crystallizes as dihydrochloride. Recrystallization from methanol/acetonitrile yields 0.72 g (40.4%) [3-(1H-imidazol-4yl)but-2-yl]amine.2HCl.0.25 methanol as colorless crystals, melting point: 249°-254° C. (decomp.).

reactant | 2-amino-1-chloro-3-(1H-imidazol-4-yl)butane dihydrochloride | 8.1 mmol, 2 g | Cl.Cl.NC(CCl)C(C)C=1N=CNC1
reactant | sodium acetate | 16.2 mmol, 1.3 g | C(C)(=O)[O-].[Na+]
catalyst | palladium on activated carbon | 0.5 g | [Pd] | Pd
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | [3-(1H-imidazol-4yl)but-2-yl]amine | 0.72 g, 40.4% | N1C=NC(=C1)C(C(C)N)C | C7H13N3
